US08859591B2
To a mixture of 1-(4-methoxyphenyl)-1H-pyrazole-4-carbaldehyde (80 mg, 0.54 mmol) in tetrahydrofuran (3 mL) and ammonium hydroxide (3 mL) was added iodine (138 mg, 0.54 mmol). The reaction was stirred at room temperature for 5 hours. The reaction was diluted with saturated sodium thiosulphate (5 mL) and extracted with ethyl acetate (3×10 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated to give 1-(4-methoxyphenyl)-1H-pyrazole-4-carbonitrile (78 mg, 100%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.19 (s, 1H), 7.96 (s, 1H), 7.56 (d, J=9.2 Hz, 2H), 7.01 (d, J=9.2 Hz, 2H), 3.86 (s, 3H).

reactant | 1-(4-methoxyphenyl)-1H-pyrazole-4-carbaldehyde | 0.54 mmol, 80 mg | COC1=CC=C(C=C1)N1N=CC(=C1)C=O | C11H10N2O2
reactant | iodine | 0.54 mmol, 138 mg | II | I2
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | sodium thiosulphate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 1-(4-methoxyphenyl)-1H-pyrazole-4-carbonitrile | 78 mg, 100% | COC1=CC=C(C=C1)N1N=CC(=C1)C#N | C11H9N3O
